US09334290B2
A mixture of thionyl chloride (3.15 g, 26.5 mmol) and 2-amino-3-methylbenzoic acid (2.00 g, 13.23 mmol) in THF (50 mL) was heated at reflux for 2 h. The cooled mixture was concentrated and the residue was combined with 3-bromo-2-methylaniline (4.92 g, 26.5 mmol) in THF (50 mL) and heated at reflux for 5 h. The mixture was cooled to room temperature, treated with 10% aqueous K2CO3 and stirred at room temperature for 30 min. The resulting mixture was extracted 3 times with DCM, and the combined organic phases were washed with water, dried and concentrated. The residue was purified by column chromatography on silica gel (330 g), eluting with EtOAc-hexanes (gradient from 0-20%), to give 2-amino-N-(3-bromo-2-methylphenyl)-3-methylbenzamide as a yellow solid (1.71 g, 40% yield). Mass spectrum m/z 319, 321 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 7.70 (d, J=7.9 Hz, 1H), 7.64 (br. s., 1H), 7.50-7.40 (m, 2H), 7.24 (d, J=7.3 Hz, 1H), 7.14 (t, J=8.0 Hz, 1H), 6.70 (t, J=7.6 Hz, 1H), 5.67 (br. s., 2H), 2.44 (s, 3H), 2.23 (s, 3H).

reactant | thionyl chloride | 26.5 mmol, 3.15 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-3-methylbenzoic acid | 13.23 mmol, 2.00 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | 3-bromo-2-methylaniline | 26.5 mmol, 4.92 g | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-amino-N-(3-bromo-2-methylphenyl)-3-methylbenzamide | 1.71 g, 40% yield | NC1=C(C(=O)NC2=C(C(=CC=C2)Br)C)C=CC=C1C | C15H15BrN2O
